US08791120B2
4-(6-Cyano-5-phenyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (D14)
To a mixture of zinc cyanide (0.077 g, 0.66 mmol) and tetrakis(triphenylphosphine)palladium (0) (0.1 g, 0.09 mmol) was added a solution of 4-(6-chloro-5-phenyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (D13) (0.137 g, 0.36 mmol) in N,N-dimethylformamide (3.5 ml). The resulting mixture was stirred at 160° C. for 30 min, under microwave irradiation. The solvent was evaporated in vacuo to yield D14 (0.133 g, quant.). C20H23N5O2 requires 365; Found 366 (MH+).

reactant | 4-(6-chloro-5-phenyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.36 mmol, 0.137 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC(=C(C1)C1=CC=CC=C1)Cl | C19H23ClN4O2
reactant | N,N-dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.66 mmol, 0.077 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.09 mmol, 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(6-Cyano-5-phenyl-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC(=C(C1)C1=CC=CC=C1)C#N | C20H23N5O2
